US09302989B2
N-{3-[(1-benzoylpiperidin-4-yl)oxy]propyl}-1,3-dihydro-2H-isoindole-2-carboxamide
The title compound was prepared as described in Example 278, substituting benzoyl chloride for acetyl chloride and N-(3-(piperidin-4-yloxy)propyl)isoindoline-2-carboxamide for 5-amino-N-(4-(propylcarbamoyl)phenyl)isoindoline-2-carboxamide. 1H NMR (300 MHz, DMSO-d6) δ ppm 7.21-7.50 (m, 9H) 6.27 (t, J=5.43 Hz, 1H) 4.57 (s, 4H) 3.40-3.58 (m, 6H) 3.07-3.21 (m, 2H) 1.74-1.93 (br m, 2H) 1.62-1.75 (m, 2H) 1.44 (br m, 2H); MS (ESI(+)) m/e 408 (M+H)+.

reactant | acetyl chloride | C(C)(=O)Cl | C2H3ClO
reactant | N-(3-(piperidin-4-yloxy)propyl)isoindoline-2-carboxamide | N1CCC(CC1)OCCCNC(=O)N1CC2=CC=CC=C2C1 | C17H25N3O2
reactant | 5-amino-N-(4-(propylcarbamoyl)phenyl)isoindoline-2-carboxamide | NC=1C=C2CN(CC2=CC1)C(=O)NC1=CC=C(C=C1)C(NCCC)=O | C19H22N4O2
product | N-{3-[(1-benzoylpiperidin-4-yl)oxy]propyl}-1,3-dihydro-2H-isoindole-2-carboxamide | C(C1=CC=CC=C1)(=O)N1CCC(CC1)OCCCNC(=O)N1CC2=CC=CC=C2C1 | C24H29N3O3
